US05455252
2-bromo-4-(methylsulfonylmethyl)aniline and benzene boronic acid can be combined to form 2-phenyl-4-(methylsulfonylmethyl)aniline,

reactant | 2-bromo-4-(methylsulfonylmethyl)aniline | BrC1=C(N)C=CC(=C1)CS(=O)(=O)C | C8H10BrNO2S
reactant | benzene boronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 2-phenyl-4-(methylsulfonylmethyl)aniline | C1(=CC=CC=C1)C1=C(N)C=CC(=C1)CS(=O)(=O)C | C14H15NO2S
